US06358980B1
4-But-2-ynyloxy-benzenesulfonyl chloride
To a stirred solution of oxalyl chloride (47.8 ml, 0.545 mol) at 0° C. in 240 mL of CH2Cl2 was added a DMF (43.0 ml) solution of 4-but-2-ynyloxy-benzenesulfonic acid sodium salt in a drop wise manner. The reaction mixture was stirred at 0° C. for 30 min and then let warm to room temperature and stirred for 18 h. The reaction was then poured into ice and extracted with hexanes. The organics were washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to provide 42.0 g (95%) of the desired product as yellow solid.

reactant | oxalyl chloride | 0.545 mol, 47.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 43.0 ml | CN(C)C=O | C3H7NO
reactant | 4-but-2-ynyloxy-benzenesulfonic acid sodium salt | [Na+].C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)[O-]
solvent | CH2Cl2 | 240 mL | C(Cl)Cl | CH2Cl2
product | 4-But-2-ynyloxy-benzenesulfonyl chloride | 42.0 g, 95% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
